US07547710B2
To a solution of tert-butyl [6-[(Z)-amino(hydroxyimino)methyl]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate (0.25 g, 0.54 mmol) in tetrahydrofuran (10 ml)-ethyl acetate (10 ml) was added N,N-carbonyldiimidazole (0.26 g, 1.6 mmol), and the mixture was heated under reflux for 3 hrs. The reaction mixture was partitioned between ethyl acetate and 0.1M aqueous citric acid solution. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was crystallized from n-hexane-ethyl acetate to give tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)quinolin-3-yl]methylcarbamate (0.24 g, yield 90%) as a white powder.

reactant | tert-butyl [6-[(Z)-amino(hydroxyimino)methyl]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate | 0.54 mmol, 0.25 g | N\C(\C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)=N/O | C27H34N4O3
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | N,N-carbonyldiimidazole | 1.6 mmol, 0.26 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)quinolin-3-yl]methylcarbamate | 0.24 g, yield 90% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)C1=NOC(N1)=O | C28H32N4O4
